US05510366
(3) 1-Benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one
31.2 g (80.0 mmol) of N-benzyl-2-bromo-5'-ethoxy-2'-methylisobutyranilide was dissolved in 258 ml of chlorobenzene. After the addition of 53.2 g (399 mmol) of aluminum chloride powder, the mixture was heated while stirring for 28 minutes at 125° C. The resulting mixture was cooled, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue obtained was purified by column chromatography (silica gel, 3:1 mixture of n-hexane and ethyl acetate) and recrystallized (ether-n-hexane) to obtain 9.06 g (yield, 40.3%) of colorless prisms of the title compound.

reactant | N-benzyl-2-bromo-5'-ethoxy-2'-methylisobutyranilide | 80.0 mmol, 31.2 g | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)OCC)C)C(C(C)(C)Br)=O | C20H24BrNO2
reactant | aluminum chloride | 399 mmol, 53.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | 258 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one | C(C1=CC=CC=C1)N1C(C(C2=C(C=CC(=C12)C)O)(C)C)=O | C18H19NO2
